US05478813
To 4.5 mg of 6-benzyloxymethyl-1,11-dibenzyloxy-12,13-dihydro-13-(tetraacetyl-β-D-glucopyranosyl)-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione were added 1.5 ml of ethyl acetate and 9 ml of ethanol to make a solution, and the solution was subjected to hydrogenation reaction in the presence of palladium-carbon catalyst (two medical spoonsful) for 3 hours. After the reaction, the palladium-carbon was removed by filtration and washed with methanol and tetrahydrofuran. The filtrate and the washings were concentrated under reduced pressure, the residue was subjected to thin layer chromatography (Kiesel gel 60; developed with chloroform-methanol=19:1), and the desired product was scraped and extracted with methanol to give 12,13-dihydro-1,11-dihydroxy-6-hydroxymethyl-13-(tetraacetyl-β-D-glucopyranosyl)-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione (yield: 57.7%).

reactant | 6-benzyloxymethyl-1,11-dibenzyloxy-12,13-dihydro-13-(tetraacetyl-β-D-glucopyranosyl)-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione | 4.5 mg | C(C1=CC=CC=C1)OCN1C(C=2C3=C(C=4NC5=C(C=CC=C5C4C2C1=O)OCC1=CC=CC=C1)N(C=1C(=CC=CC13)OCC1=CC=CC=C1)[C@]1([C@](O)([C@@](O)([C@](O)([C@H](O1)CO)C(C)=O)C(C)=O)C(C)=O)C(C)=O)=O | C56H49N3O14
reactant | ethyl acetate | 1.5 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 12,13-dihydro-1,11-dihydroxy-6-hydroxymethyl-13-(tetraacetyl-β-D-glucopyranosyl)-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione | yield: 57.7% | OC1=CC=CC2=C1N(C1=C2C2=C(C=3C4=CC=CC(=C4NC13)O)C(N(C2=O)CO)=O)[C@]2([C@](O)([C@@](O)([C@](O)([C@H](O2)CO)C(C)=O)C(C)=O)C(C)=O)C(C)=O | C35H31N3O14
